US05804688
A suspension of 2.40 g (16.3 mmol) and 2.80 g (15.6 mmol) of 4-(4aminophenyl)butyric acid in 20 mL of propylene glycol, 2.40 mL (1.74 g, 17.3 mmol) of triethylamine and 10 mg (0.08 mmol) of dimethylaminopyridine was heated to 140° C. The mixture became a clear solution after 5 min at 140° C. After stirring for 330 min, the reaction mixture was cooled to 25° C. and diluted with 20 mL of water. The solid phthalimide which had formed was filtered off. The filtrate was acidified with 3% HCl solution. The resulting solid was filtered off and was recrystallized from 2-propanol and water to give 0.62 g of compound 133 as a tan solid.

reactant | 4-(4aminophenyl)butyric acid | 15.6 mmol, 2.80 g | NC1=CC=C(C=C1)CCCC(=O)O | C10H13NO2
reactant | triethylamine | 17.3 mmol, 2.40 mL, 1.74 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.08 mmol, 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | propylene glycol | 20 mL | C(C(C)O)O | C3H8O2
solvent | water | 20 mL | O | H2O
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
